US05380742
11.2 1-Carboxy-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide.
A mixture of 0.5 g (1.54 mmol) of 1-carboxy-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole and 5 ml of a 33% solution of hydrobromic acid in acetic acid, placed in a sealed tube, is heated at 60° C. in a water bath for 15 min. The reaction mixture is then cooled, the precipitate formed is filtered, washed twice with diethyl ether and dried. 0.32 g of product is obtained in the hydrobromide form. Yield 83%. Melting point: 281.3°-281.7° C.

reactant | 1-carboxy-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 1.54 mmol, 0.5 g | C(=O)(O)C=1SC=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2 | C14H13NO4S2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Carboxy-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide | 0.32 g, Yield 83% | Br.C(=O)(O)C=1SC=C2C1CNC2 | InChI=1S/C7H7NO2S.BrH/c9-7(10)6-5-2-8-1-4(5)3-11-6;/h3,8H,1-2H2,(H,9,10);1H
